US07851475B2
Preparation of 2-[5-(4-Methyl-piperazin-1-yl)-2-nitro-phenyl]-acetamide
[5-(4-Methyl-piperazin-1-yl)-2-nitro-phenyl]-acetic acid ethyl ester (1.54 g, 5.01 mmol) is suspended in a 33% aqueous NH4OH solution (400 mL), and stirred for 3 days at RT. The volume is carefully reduced under vacuum until the title compound remains as a yellow solid, which is further dried under high vacuum. ES+-MS: 279 [M+H]+.

reactant | [5-(4-Methyl-piperazin-1-yl)-2-nitro-phenyl]-acetic acid ethyl ester | 5.01 mmol, 1.54 g | C(C)OC(CC1=C(C=CC(=C1)N1CCN(CC1)C)[N+](=O)[O-])=O | C15H21N3O4
reactant | NH4OH | 400 mL | [NH4+].[OH-]
product | 2-[5-(4-Methyl-piperazin-1-yl)-2-nitro-phenyl]-acetamide | CN1CCN(CC1)C=1C=CC(=C(C1)CC(=O)N)[N+](=O)[O-] | C13H18N4O3
